US08372884B2
Synthesis of ((S)-4-(tert-butoxycarbonylamino)-5-((R)-1-carboxy-2-((2E,6E)-3,7,11-trimethyldodeca-2,6,10-trienylthio)ethylamino)-5-oxopentanoic acid) (Compound N-66):
In a 100 mL round bottom flask, to a solution of (S)-5-(benzyloxy)-2-(tert-butoxycarbonylamino)-5-oxopentanoic acid (674 mg, 2 mmol) and benzotriazol-1-yl-oxytripyrrolidinophosphonium hexafluorophosphate (PyBop, 1040 mg, 2 mmol) and in THF (5 mL) was added N,N-diisopropyl-ethyl-amine (1.04 mL, 6 mmol) dropwise. After 10 min, S-trans, trans-farnesyl-L-cysteine (650 mg, 2 mmol) was added slowly. The solution was stirred at room temperature for 4 h. The reaction was quenched by 1 N HCl and pH of the solution was adjusted to 3.0. The mixture was extracted by ethyl acetate (15 mL×3). The organic layer was dried over Na2SO4 and concentrated in vacuo. Half of the residue was used directly for next step to afford crude Compound N-66. To this crude Compound N-66 obtained above dissolved in MeOH (1 mL), was added 5 N NaOH (2 mL, 10 mmol). The reaction was left at room temperature for 10 min. The reaction was quenched by 1 N HCl and pH of the solution was adjusted to 2.0. The mixture was extracted by ethyl acetate (15 mL×3). The organic layer was dried over Na2SO4 and concentrated in vacuo. The residue was then further purified by preparative HPLC (164 mg, 30%) to yield Compound N-66. 1H-NMR (500 MHz, CDCl3): δ 1.45 (s, 9H), 1.62 (s, 6H), 1.68 (s, 3H), 1.70 (s, 3H), 1.95-2.09 (m, 10H), 2.46-2.54 (m, 2H), 2.91 (dd, J=5.0, 15.0 Hz, 1H), 3.04 (dd, J=5.0, 15.0 Hz, 1H), 3.17-3.25 (m, 2H), 4.56 (dd, J=10.0, 15.0 Hz, 1H), 4.77-4.81 (m, 1H), 5.12 (m, 2H), 5.23 (t, J=10.0 Hz, 1H), 5.64 (d, J=10.0 Hz, 1H), 7.66 (d, J=10.0 Hz, 1H), 8.40 (broad, 2H). 13C-NMR (125 MHz, CDCl3): δ 16.06, 16.15, 17.75, 25.77, 26.52, 26.74, 28.01, 28.33, 29.73, 29.89, 32.60, 39.70, 39.74, 52.22, 52.95, 80.91, 119.57, 123.83, 124.35, 131.38, 135.34, 140.04, 156.06, 172.18, 174.00, 177.16; ES-MS: mass calcd for Chemical Formula: C28H46N2O2S 554.74. Found (M+Na) m/z 577.4.

reactant | (S)-5-(benzyloxy)-2-(tert-butoxycarbonylamino)-5-oxopentanoic acid | 2 mmol, 674 mg | C(C1=CC=CC=C1)OC(CC[C@@H](C(=O)O)NC(=O)OC(C)(C)C)=O | C17H23NO6
reactant | benzotriazol-1-yl-oxytripyrrolidinophosphonium hexafluorophosphate | 2 mmol, 1040 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
reactant | N,N-diisopropyl-ethyl-amine | 6 mmol, 1.04 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | trans-farnesyl-L-cysteine | 2 mmol, 650 mg | CC(=CCC/C(=C/CC/C(=C/CSC[C@@H](C(=O)O)N)/C)/C)C | C18H31NO2S
reactant | NaOH | 10 mmol, 5 N, 2 mL | [OH-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | MeOH | 1 mL | CO | CH4O
product | (S)-4-(tert-butoxycarbonylamino)-5-((R)-1-carboxy-2-((2E,6E)-3,7,11-trimethyldodeca-2,6,10-trienylthio)ethylamino)-5-oxopentanoic acid | C(C)(C)(C)OC(=O)N[C@@H](CCC(=O)O)C(=O)N[C@@H](CSC\C=C(\CC\C=C(\CCC=C(C)C)/C)/C)C(=O)O | C28H46N2O7S
